US05753595
Under a nitrogen atmosphere a stirred solution of 3.8 mL (3.8 mmole) of 1M boron tribromide (in methylene chloride) in 50 mL of methylene chloride was cooled to about -40° C., and a solution of 0.6 gram (2.6 mmole) of 3-[2-(1-methoxy-1-methylethyl)-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione in 50 mL of methylene chloride was added dropwise at such a rate as to maintain the reaction mixture temperature below -30° C. Upon completion of the addition the reaction mixture was allowed to warm to ambient temperature, where it stirred for about 18 hours. At the conclusion of this period the reaction mixture was poured into water and thoroughly extracted with methylene chloride. The combined extracts were washed with an aqueous saturated sodium chloride solution, dried with sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure to a brown oil, which was subjected to column chromatography on silica gel. Elution was with 1:4 ethyl acetate to heptane. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.3 gram of 3-[2-(1-hydroxy-1-methylethyl)-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione. The NMR spectrum was consistent with the proposed structure.

reactant | boron tribromide | 3.8 mmole, 1M, 3.8 mL | B(Br)(Br)Br | BBr3
reactant | 3-[2-(1-methoxy-1-methylethyl)-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione | 2.6 mmole, 0.6 gram | COC(C)(C)C=1OC2=C(N1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C17H14ClF4N3O4
reactant | water | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(1-hydroxy-1-methylethyl)-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | 0.3 gram | OC(C)(C)C=1OC2=C(N1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C16H12ClF4N3O4
